US05420271
Dissolve N-(t-butyloxycarbonyl)ethylenediamine (8.82 g, 55.1 mmol) in methylene chloride (150 mL). Treat with pyridine (6.7 mL, 83 mmol). Add, by dropwise addition, trifluoroacetic anhydride (11.7 mL, 83 mmol). Stir at room temperature for 2.5 hours and quench with saturated sodium hydrogen carbonate (50 mL). Extract and wash the organic phase with 5% sulfuric acid (50 mL) and again with saturated sodium hydrogen carbonate (50 mL). Dry (Na2SO4), evaporate the solvent in vacuo and purify by chromatography (2:1 ethyl acetate/hexane) to give N-(t-butyloxycarbonyl)-N'-(trifluoroacetyl)-ethylenediamine as a colorless oil (10.1 g, 72%).

reactant | N-(t-butyloxycarbonyl)ethylenediamine | 55.1 mmol, 8.82 g | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | pyridine | 83 mmol, 6.7 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 83 mmol, 11.7 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | N-(t-butyloxycarbonyl)-N'-(trifluoroacetyl)-ethylenediamine | 10.1 g, 72% | C(C)(C)(C)OC(=O)NCCNC(C(F)(F)F)=O | C9H15F3N2O3
